US05618839
N-(4-Methyl-3-nitro-phenyl)acetamide
A solution of 4-methyl-3-nitroaniline (3.60 g, 23.7 mmol) in acetic anhydride (28 mL) was allowed to stir at room temperature. After 16 h, the reaction mixture was concentrated in vacuo, diluted with ethyl acetate (25 mL), washed with saturated sodium bicarbonate (2×50 mL), dried over anhydrous sodium sulfate and concentrated in vacuo to give 4.20 g (Y: 99%) of the title compound; 1H-NMR (CDCl3): δ8.10 (d, J=1.7 Hz, 1H), 7.75 (dd, J=8.5, 1.7 Hz, 1H), 7.38 (bs, 1H), 7.29 (d, J=8.5 Hz, 1H), 2.56 (s, 3H), 2.21 (s, 3H); MS (DCI) m/e: 195 (MH+).

reactant | 4-methyl-3-nitroaniline | 23.7 mmol, 3.60 g | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | acetic anhydride | 28 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(4-Methyl-3-nitro-phenyl)acetamide | CC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C9H10N2O3
